US04794183
dl-trans-3-Hexadecyloxy-2-hydroxymethyltetrahydropyran
1.5 g of 10% w/w palladium-on-activated carbon was added to a solution of 3.757 g of dl-trans-2-benzyloxymethyl-3-hexadecyloxytetrahydropyran (prepared as described in Preparation 7) in 150 ml of methanol, and the whole was mixed with hydrogen by shaking in a Paar's apparatus at room temperature under a pressure of 4 atmospheres (about 4 bars). After 20 hours, the catalyst was removed by filtration, and the solvent was then removed by distillation to give 2.749 g of the title compound as a solid, melting at 41°-42° C. (cold hexane).

reactant | trans-2-benzyloxymethyl-3-hexadecyloxytetrahydropyran | C(C1=CC=CC=C1)OC[C@@H]1OCCC[C@H]1OCCCCCCCCCCCCCCCC | C29H50O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | trans-3-Hexadecyloxy-2-hydroxymethyltetrahydropyran | 2.749 g | C(CCCCCCCCCCCCCCC)O[C@H]1[C@@H](OCCC1)CO | C22H44O3
